US08791107B2
1-cyclopropyl-3-(4-(6-oxo-5-(tetrahydro-2H-pyran-4-yl)-5,6,6a,7,9,10-hexahydro-[1,4]oxazino[3,4-h]pteridin-2-yl)phenyl)urea
To a microwave reaction vial were added 2-chloro-5-(tetrahydro-2H-pyran-4-yl)-6a,7,9,10-tetrahydro-[1,4]oxazino[3,4-h]pteridin-6(5H)-one (PREPARATION x55, 0.040 g, 0.123 mmol), 1-cyclopropyl-3-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)urea (0.041 g, 0.135 mmol), and PdCl2(dppf) (0.018 g, 0.025 mmol) in saturated aq sodium bicarbonate (0.3 mL, 0.123 mmol) and dioxane (1.232 mL). The resulting suspension was heated by microwave irradiation at 100° C. for 1 hour, then filtered, and purified by preparatory HPLC using a 20-30% CH3CN gradient in H2O (with 0.05% TFA). The fractions were combined, concentrated in vacuo, and lyophilized to give the title compound as a white solid (13 mg, 23%). 1H NMR (400 MHz, DMSO-d6) δ ppm 0.45-0.62 (m, 2H), 0.71-0.86 (m, 2H), 1.66-1.82 (m, 2H), 2.55-2.84 (m, 3H), 3.17-3.40 (m, 2H), 3.46-3.78 (m, 4H), 4.07 (td, J=12.19, 4.17 Hz, 3H), 4.30-4.46 (m, 2H), 4.55 (dd, J=10.61, 3.79 Hz, 1H), 4.96 (dd, J=13.64, 1.77 Hz, 2H), 7.67 (d, J=8.84 Hz, 2H), 8.01-8.26 (m, 3H); ESI-MS m/z [M+H]+ calc'd for C24H28N6O4, 465.2. found 465.4.

reactant | 2-chloro-5-(tetrahydro-2H-pyran-4-yl)-6a,7,9,10-tetrahydro-[1,4]oxazino[3,4-h]pteridin-6(5H)-one | 0.123 mmol, 0.040 g | ClC1=NC=2N3C(C(N(C2C=N1)C1CCOCC1)=O)COCC3 | C14H17ClN4O3
reactant | 1-cyclopropyl-3-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)urea | 0.135 mmol, 0.041 g | C1(CC1)NC(=O)NC1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C | C16H23BN2O3
reactant | sodium bicarbonate | 0.123 mmol, 0.3 mL | C([O-])(O)=O.[Na+]
solvent | dioxane | 1.232 mL | O1CCOCC1 | C4H8O2
catalyst | PdCl2(dppf) | 0.025 mmol, 0.018 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 1-cyclopropyl-3-(4-(6-oxo-5-(tetrahydro-2H-pyran-4-yl)-5,6,6a,7,9,10-hexahydro-[1,4]oxazino[3,4-h]pteridin-2-yl)phenyl)urea | 13 mg, 23% | C1(CC1)NC(=O)NC1=CC=C(C=C1)C1=NC=2N3C(C(N(C2C=N1)C1CCOCC1)=O)COCC3 | C24H28N6O4
